US04752414
A mixture of 11 g of a 2-p-hydroxyphenyl-5-n-hexylpyrimidine, 7.8 g of trans-4-n-propyl-1-bromomethylcyclohexane, 8.6 g of potassium carbonate and 50 ml of dimethylformamide is warmed at 90° for 10 hours. Customary working up gives 4-(5-n-hexylpyrimidin-2-yl)-phenyl trans-4-n-propylcyclohexylmethyl ether.

reactant | 2-p-hydroxyphenyl-5-n-hexylpyrimidine | 11 g | OC1=CC=C(C=C1)C1=NC=C(C=N1)CCCCCC | C16H20N2O
reactant | trans-4-n-propyl-1-bromomethylcyclohexane | 7.8 g | C(CC)[C@@H]1CC[C@H](CC1)CBr | C10H19Br
reactant | potassium carbonate | 8.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-(5-n-hexylpyrimidin-2-yl)-phenyl trans-4-n-propylcyclohexylmethyl ether | C(CC)[C@@H]1CC[C@H](CC1)COC1=CC=C(C=C1)C1=NC=C(C=N1)CCCCCC | C26H38N2O
